US09085540B2
A mixture of tert-butyl 3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]pyrrolidine-1-carboxylate (790 mg), 4-(4-methylpiperazin-1-yl)aniline (448 mg), diisopropylethylamine (729 μL), and N,N-dimethylformamide (5.53 mL) was stirred at 120° C. for 22 hours. The reaction mixture was left to be cooled and then diluted with ethyl acetate, and the organic phase was washed with water, a saturated aqueous sodium hydrogen carbonate solution, and saturated brine in this order, and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-30:1:0.1), and then washed with diisopropyl ether to obtain tert-butyl 3-[(5-carbamoyl-3-ethyl-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-yl)oxy]pyrrolidine-1-carboxylate (355 mg) as a pale yellow solid.

reactant | tert-butyl 3-[(5-carbamoyl-6-chloro-3-ethylpyrazin-2-yl)oxy]pyrrolidine-1-carboxylate | 790 mg | C(N)(=O)C=1N=C(C(=NC1Cl)OC1CN(CC1)C(=O)OC(C)(C)C)CC | C16H23ClN4O4
reactant | 4-(4-methylpiperazin-1-yl)aniline | 448 mg | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | diisopropylethylamine | 729 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N-dimethylformamide | 5.53 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[(5-carbamoyl-3-ethyl-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}pyrazin-2-yl)oxy]pyrrolidine-1-carboxylate | 355 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC=C(C=C1)N1CCN(CC1)C)OC1CN(CC1)C(=O)OC(C)(C)C)CC | C27H39N7O4
